US08039493B2
In analogy to example 13, step 2, isobutyl-[5-(3-methanesulfonyl-phenyl)-thiophen-2-ylmethyl]-amine was reacted with methanesulfonyl chloride in presence of N,N-diisopropyl ethyl amine in dichloromethane to give N-isobutyl-N-[5-(3-methanesulfonyl-phenyl)-thiophen-2-ylmethyl]-methanesulfonamide as a colorless solid. MS: 419.3 ([M+NH4]+)

reactant | isobutyl-[5-(3-methanesulfonyl-phenyl)-thiophen-2-ylmethyl]-amine | C(C(C)C)NCC=1SC(=CC1)C1=CC(=CC=C1)S(=O)(=O)C | C16H21NO2S2
reactant | methanesulfonyl chloride | CS(=O)(=O)Cl | CH3ClO2S
reactant | N,N-diisopropyl ethyl amine | C(C)(C)N(C(C)C)CC | C8H19N
solvent | dichloromethane | ClCCl | CH2Cl2
product | N-isobutyl-N-[5-(3-methanesulfonyl-phenyl)-thiophen-2-ylmethyl]-methanesulfonamide | C(C(C)C)N(S(=O)(=O)C)CC=1SC(=CC1)C1=CC(=CC=C1)S(=O)(=O)C | C17H23NO4S3
